US09126931B2
N-[2-(3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yloxy)-ethyl]-methanesulfonamide
Trifluoroacetic acid salt of 8-(2-amino-ethoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound A8-2, 19 mg, 0.044 mmol) was suspended in dichloromethane (0.5 mL), added with diisopropylethylamine (0.0157 mL, 2 eq.) and methanesulfonyl chloride (0.0034 mL, 1 eq.), and then stirred at room temperature for 2 hr. The reaction solution was added to water, and then extracted with dichloromethane. After washing with saturated brine, the organic layer was dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were separated by silica gel preparative TLC (ethyl acetate 100%) to obtain the target compound (5.5 mg, 29%).

reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 8-(2-amino-ethoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.044 mmol, 19 mg | NCCOC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C21H19N3O2
reactant | diisopropylethylamine | 0.0157 mL, 2 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.0034 mL, 1 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[2-(3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yloxy)-ethyl]-methanesulfonamide | 5.5 mg, 29% | C(#N)C1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OCCNS(=O)(=O)C)=O | C22H21N3O4S
